US06828116B1
ii) 1-(3,5-Dinitrobenzyl)-5-sulpho-2,3,3-trimethyl-3H-indolium Bromide
3,5-Dinitrobenzyl chloride (22.1g, 102 mmol) and sodium bromide (10.5 g, 102 mmol) were added to 2,3,3-trimethyl-5-sulpho-indole, potassium salt (5.0 g, 20.4 mmol) in sulpholane (25 ml). The reaction mixture was stirred at 100° C. for 5 hours. The solution was then cooled to room temperature and acetone (300 ml) was added to the reaction flask. A brown precipitate was formed which was collected by filtration and then purified by reverse phase HPLC. This gave a beige solid which was dried in vacuo. UV (water/acetonitrile): λmax=283 nm. MS: m/z=420 (C18H18N3O7S=420.4).

reactant | 3,5-Dinitrobenzyl chloride | 102 mmol, 22.1g | [N+](=O)([O-])C=1C=C(CCl)C=C(C1)[N+](=O)[O-] | C7H5ClN2O4
reactant | sodium bromide | 102 mmol, 10.5 g | [Br-].[Na+]
reactant | 2,3,3-trimethyl-5-sulpho-indole | CC1=NC2=CC=C(C=C2C1(C)C)S(=O)(=O)O | C11H13NO3S
reactant | potassium | 20.4 mmol, 5.0 g | [K] | K
solvent | sulpholane | 25 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 1-(3,5-Dinitrobenzyl)-5-sulpho-2,3,3-trimethyl-3H-indolium Bromide | [Br-].[N+](=O)([O-])C=1C=C(C[N+]2=C(C(C3=CC(=CC=C23)S(=O)(=O)O)(C)C)C)C=C(C1)[N+](=O)[O-] | InChI=1S/C18H17N3O7S.BrH/c1-11-18(2,3)16-9-15(29(26,27)28)4-5-17(16)19(11)10-12-6-13(20(22)23)8-14(7-12)21(24)25;/h4-9H,10H2,1-3H3;1H
